US06787544B2
In 3 mL of methanol is suspended 0.6 g of methyl 6-bromo-3-hydroxy-2-pyrazinecarboxylate obtained according to the method described in literature [J. Med. Chem., 1969, 12(2), 285-287]. Then, 6 mL of 25% aqueous ammonia is added thereto and the resulting solution is stirred at ambient temperature for 17 hours. The reaction mixture is adjusted to pH 3 by adding 6 mol/L hydrochloric acid. The solvent is distilled off under reduced pressure. Isopropyl ether and water are added to the residue and filtered to obtain 0.33 g of 6-bromo-3-hydroxy-2-pyrazinecarboxamide.

reactant | methyl 6-bromo-3-hydroxy-2-pyrazinecarboxylate | 0.6 g | BrC1=CN=C(C(=N1)C(=O)OC)O | C6H5BrN2O3
reactant | ammonia | 6 mL | N | H3N
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 6-bromo-3-hydroxy-2-pyrazinecarboxamide | 0.33 g | BrC1=CN=C(C(=N1)C(=O)N)O | C5H4BrN3O2
